US08134001B2
In a manner similar to the method described in example 1d, cis-2-[4-(tert-butyl-dimethyl-silanyloxy)-cyclohexyloxy]-5-chloro-benzaldehyde (3.6 g, 9.8 mmol) was reacted with 1,1,1,3,3,3-hexamethyldisilazane (1.6 g, 10 mmol), n-butyllithium (2.5 M, 4 mL, 10 mmol), trimethylsilyl chloride (1.1 g, 10 mmol), triethylamine (1.36 g, 13 mmol) and acetyl chloride (1 g, 13 mmol) to give crude 1-[2-[cis-4-(tert-butyl-dimethyl-silanyloxy)-cyclohexyloxy]-5-chloro-phenyl]-3-trimethylsilyoxy-2-aza-1,3-butadiene as a yellow gum and used for the next step without further purification.

reactant | cis-2-[4-(tert-butyl-dimethyl-silanyloxy)-cyclohexyloxy]-5-chloro-benzaldehyde | 9.8 mmol, 3.6 g | C(C)(C)(C)[Si](O[C@H]1CC[C@H](CC1)OC1=C(C=O)C=C(C=C1)Cl)(C)C | C19H29ClO3Si
reactant | 1,1,1,3,3,3-hexamethyldisilazane | 10 mmol, 1.6 g | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | n-butyllithium | 10 mmol, 2.5 M, 4 mL | C(CCC)[Li]
reactant | trimethylsilyl chloride | 10 mmol, 1.1 g | C[Si](C)(C)Cl | C3H9ClSi
reactant | triethylamine | 13 mmol, 1.36 g | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 13 mmol, 1 g | C(C)(=O)Cl | C2H3ClO
product | 1-[2-[cis-4-(tert-butyl-dimethyl-silanyloxy)-cyclohexyloxy]-5-chloro-phenyl]-3-trimethylsilyoxy-2-aza-1,3-butadiene | C(C)(C)(C)[Si](O[C@H]1CC[C@H](CC1)OC1=C(C=C(C=C1)Cl)C=NC(=C)O[Si](C)(C)C)(C)C | C24H40ClNO3Si2
